US07566707B2
2-chloromethyl-naphtho[2,1-d]oxazole
Prepared by reacting 2.93 g of 2-amino-1-naphthol with 3.54 g of 2-chloro-1,1,1-triethoxy-ethane in 25 ml of ethanol at 60° C.

reactant | 2-amino-1-naphthol | 2.93 g | NC1=C(C2=CC=CC=C2C=C1)O | C10H9NO
reactant | 2-chloro-1,1,1-triethoxy-ethane | 3.54 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-chloromethyl-naphtho[2,1-d]oxazole | ClCC=1OC2=C(N1)C=CC1=CC=CC=C12 | C12H8ClNO
